US08648103B2
(a) [3-(4-Methoxyphenyl)isoxazol-5-yl]methanol
p-Anisaldehyde (3.0 g, 22 mol) was dissolved in ethanol (30 mL), and sodium bicarbonate (2.2 g, 26 mmol) was then added to the solution. The obtained mixture was stirred at room temperature, and an aqueous solution (15 mL) of hydroxylamine hydrochloride (1.7 g, 24 mmol) was then added to the reaction solution. The obtained mixture was stirred at room temperature for 1 hour. Thereafter, the reaction solution was concentrated under reduced pressure, and a sodium bicarbonate aqueous solution was then added to the residue, followed by extraction three times with ethyl acetate. The organic layer was washed with a saturated saline, and it was then dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was dissolved in dimethylformamide (40 mL), and the mixture was then stirred under ice cooling. Subsequently, N-chlorosuccinimide (2.9 g, 22 mmol) was added to the reaction solution. The obtained mixture was stirred for 2.5 hours, while raising the temperature of the reaction mixture to room temperature. Thereafter, water was added to the reaction solution, and it was then extracted with ethyl acetate three times. The organic layer was washed with a saturated saline, and it was then dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was purified with a fractionation purification apparatus (Biotage, ethyl acetate:hexane=2:98-2:3). The obtained chloro compound (2.5 g, 13.5 mmol) was dissolved in dichloromethane (30 mL), and propargyl alcohol (1.2 mL, 20.2 mmol) and triethylamine (2.3 mL, 16.2 mmol) were then added to the solution. The obtained mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, and the residue was purified with a fractionation purification apparatus (Biotage, ethyl acetate:hexane=1:3-3:1), so as to obtain the title compound (1.8 g, 65%) in the form of a yellow solid.

reactant | p-Anisaldehyde | 22 mol, 3.0 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | sodium bicarbonate | 26 mmol, 2.2 g | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 24 mmol, 15 mL, 1.7 g | Cl.NO
reactant | N-chlorosuccinimide | 22 mmol, 2.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | propargyl alcohol | 20.2 mmol, 1.2 mL | C(C#C)O | C3H4O
reactant | triethylamine | 16.2 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | [3-(4-Methoxyphenyl)isoxazol-5-yl]methanol | 1.8 g, 65% | COC1=CC=C(C=C1)C1=NOC(=C1)CO | C11H11NO3
